US07858623B2
Thionyl chloride (3.81 ml, 52.2 mmol) was added to a suspension of 2-hydroxy-4-iodonicotinic acid (3.46 g, 13.1 mmol) in dichloromethane (12 mL) in a pressure vessel at room temperature. The reaction mixture was then heated at 75° C. for 3 h. An aliquot was taken and hydrolyzed with methanol. LCMS analysis showed the derived methyl ester seen as major compound. The reaction mixture was cooled to room temperature and was concentrated in vacuo to give 2-hydroxy-4-iodonicotinoyl chloride. 2-hydroxy-4-iodonicotinoyl chloride in MeOH (100 mL) was stirred at room temperature for 2 h. Concentration in vacuo of the reaction mixture afforded methyl 2-hydroxy-4-iodonicotinate (3.64 g, 13.1 mmol, quantitative yield). MS (ESI pos. ion) m/z: 280 (MH+). Calc'd exact mass for C7H61NO3: 279.

reactant | 2-hydroxy-4-iodonicotinoyl chloride | OC1=C(C(=O)Cl)C(=CC=N1)I | C6H3ClINO2
reactant | MeOH | 100 mL | CO | CH4O
product | methyl 2-hydroxy-4-iodonicotinate | 13.1 mmol, 3.64 g, quantitative yield | OC1=C(C(=O)OC)C(=CC=N1)I | C7H6INO3
